US05015653
The crude (S)-5-oxo-1-(phenylmethyl)-2-pyrrolidinecarboxylic acid (160 g, 0.73 mol) was dissolved in 300 mL of toluene and 550 mL of methanol. To the solution was added 9 mL of conc H2SO4 and the solution was heated to reflux overnight. The solution was cooled in an ice bath and neutralized to pH 5 with 25% NaOH, followed by adding 50 mL of saturated sodium bicarbonate to bring the solution to pH 7. The methanol was removed on a rotary evaporator and the residue was diluted with 500 mL of water and extracted with methylene chloride. The combined extracts were washed with brine and dried over MgSO4. Evaporation of the solvent afforded 132 g of (S)-5-oxo-1-(phenylmethyl)-2-pyrrolidinecarboxylic acid methyl ester as an oil which was >95% pure by NMR. 1H NMR (CDCl3) δ 2.0-2.6 (m,4H,CH2 's), 3.68 (s,3 H,CH3), 3.95 (dd, 1 H,J=4,9 Hz, H-4), 4.02 and 5.03 (AB, 2 H,Jgem =16 Hz, CH2Ph), 7.2-7.4 (m, 5 H, arom).

reactant | (S)-5-oxo-1-(phenylmethyl)-2-pyrrolidinecarboxylic acid | 0.73 mol, 160 g | O=C1CC[C@H](N1CC1=CC=CC=C1)C(=O)O | C12H13NO3
reactant | H2SO4 | 9 mL | OS(=O)(=O)O | H2O4S
reactant | NaOH | [OH-].[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 550 mL | CO | CH4O
product | (S)-5-oxo-1-(phenylmethyl)-2-pyrrolidinecarboxylic acid methyl ester | 132 g | COC(=O)[C@H]1N(C(CC1)=O)CC1=CC=CC=C1 | C13H15NO3
